US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(4-trifluoromethoxyphenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 4-trifluoromethoxyphenylboronic acid (177 mg, 0.86 mmol) the subtitle compound was obtained, (119 mg, 48%). 1H NMR (DMSO) δ 8.70(s, 1H), 8.52(d, 1H), 8.16(s, 1H), 7.93(d, 3H), 7.81(d, 2H), 7.68(d, 1H), 7.55(d, 1H), 4.12(s, 3H). MS 431 m/z (M+H)+.

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 4-trifluoromethoxyphenylboronic acid | 0.86 mmol, 177 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | 2-(3-Nitro-4-methoxyphenyl)-5-(4-trifluoromethoxyphenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F | C21H13F3N2O5
